US08217032B2
[6-Methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (752 mg, 1.4 mmol), 2,4,6-trifluorophenylboronic acid (493 mg, 2.8 mmol), potassium phosphate (1.8 g, 8.4 mmol)) and tetrakis(triphenylphosphine)palladium (324 mg, 0.3 mmol) in dry dimethylformamide (DMF, 25 mL) and heat at 100° C. for 20 minutes. Purify reaction on an SCX column to yield 674 mg (93%) of the title compound. Mass spectrum (ion spray): m/z=520.2 (M+H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.4 mmol, 752 mg | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2,4,6-trifluorophenylboronic acid | 2.8 mmol, 493 mg | FC1=C(C(=CC(=C1)F)F)B(O)O | C6H4BF3O2
reactant | potassium phosphate | 8.4 mmol, 1.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.3 mmol, 324 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [6-Methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 674 mg, 93% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
